US06436915B1
Synthesis of 3,5-Diamino-4-[(2,6-difluorophenyl)hydrazono]pyrazole
This compound was prepared using 103 mg (0.5 mmol) of 2-[(2,6-difluorophenyl)-hydrazono]malononitrile, which was derived from 2,6-difluoroaniline (108 μL, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube approximately 10 min after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 44 mg (37%) of the title compound as an orange solid.

reactant | 2-[(2,6-difluorophenyl)-hydrazono]malononitrile | 0.5 mmol, 103 mg | FC1=C(C(=CC=C1)F)NN=C(C#N)C#N | C9H4F2N4
reactant | 2,6-difluoroaniline | 1.0 mmol, 108 μL | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(2,6-difluorophenyl)hydrazono]pyrazole | 44 mg, 37% | NC1=NN=C(C1=NNC1=C(C=CC=C1F)F)N | C9H8F2N6
